US08703758B2
I) 2-[trans-4-(2-azidopropoxy)cyclohexyl]-6-(cyclopropylmethoxy)-1,3-benzoxazole
A suspension of 2-({trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexyl}oxy)-1-methylethyl methanesulfonate 283 mg) and sodium azide (271 mg) in DMF (3 mL) was stirred at 60° C. overnight. The reaction mixture was allowed to cool to room temperature, and extracted with ethyl acetate and water. The obtained organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (249 mg).

reactant | 2-({trans-4-[6-(cyclopropylmethoxy)-1,3-benzoxazol-2-yl]cyclohexyl}oxy)-1-methylethyl methanesulfonate | 283 mg | CS(=O)(=O)OC(CO[C@@H]1CC[C@H](CC1)C=1OC2=C(N1)C=CC(=C2)OCC2CC2)C | C21H29NO6S
reactant | sodium azide | 271 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2-[trans-4-(2-azidopropoxy)cyclohexyl]-6-(cyclopropylmethoxy)-1,3-benzoxazole | 249 mg | N(=[N+]=[N-])C(CO[C@@H]1CC[C@H](CC1)C=1OC2=C(N1)C=CC(=C2)OCC2CC2)C | C20H26N4O3
